US07786132B2
(iii) 4-(Benzo[b]thiophen-2-yl)-5-(trifluoromethyl)pyrimidin-2-ol
4-(Benzo[b]thiophen-2-yl)-2-(methylthio)-5-(trifluoromethyl)pyrimidine (0.45 g, 1.3 mmol) suspended in dioxane (3 mL) was treated with 5 N sodium hydroxide (3 mL) and the reaction heated to 75° C. After stirring overnight, there was still some starting material present in the reaction mixture by LC-MS. An additional 3 mL of 5 N sodium hydroxide was added to the reaction mixture and the temperature was increased to 90° C. After 6 h, the reaction was cooled to room temperature and acidified to pH 4 with 1 N hydrochloric acid. The precipitate that formed was collected by suction filtration, washed well with water and dried in a vacuum oven to give a white solid. Yield=0.31 g. MS (M+H)+ 297.

reactant | 4-(Benzo[b]thiophen-2-yl)-2-(methylthio)-5-(trifluoromethyl)pyrimidine | 1.3 mmol, 0.45 g | S1C2=C(C=C1C1=NC(=NC=C1C(F)(F)F)SC)C=CC=C2 | C14H9F3N2S2
reactant | sodium hydroxide | 5 N, 3 mL | [OH-].[Na+]
reactant | sodium hydroxide | 5 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-(Benzo[b]thiophen-2-yl)-5-(trifluoromethyl)pyrimidin-2-ol | S1C2=C(C=C1C1=NC(=NC=C1C(F)(F)F)O)C=CC=C2 | C13H7F3N2OS
